US07767681B2
5.1. Preparation of 4-(1-benzyloxycarbonylpiperidine-2-carbonyl)piperazine-1-carboxylic acid tert-butyl ester
26.6 g of BOP, 13.6 g of 1-(carbobenzyloxy)-2-piperidinecarboxylic acid and then 11.9 ml of triethylamine are added, at 0° C., to a solution of 8 g of 1-Boc-piperazine in 80 ml of acetonitrile. The medium is stirred at AT for 12 hours and then concentrated. The medium is taken up in EtOAc, and washed three times with a saturated Na2CO3 solution and then with a saturated NaCl solution. After drying over MgSO4 and evaporation, 35.45 g of reaction crude are recovered. It is taken up in DCM and then washed twice with 5M sodium hydroxide, and with a saturated NaCl solution, and then dried over MgSO4. After evaporation, the solid is triturated in TBME, filtered, rinsed with TBME, and then dried, to give 17.93 g of the desired compound.

reactant | BOP | 26.6 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | 1-(carbobenzyloxy)-2-piperidinecarboxylic acid | 13.6 g | C(=O)(OCC1=CC=CC=C1)N1C(CCCC1)C(=O)O | C14H17NO4
reactant | triethylamine | 11.9 ml | C(C)N(CC)CC | C6H15N
reactant | 1-Boc-piperazine | 8 g | C(=O)(OC(C)(C)C)N1CCNCC1 | C9H18N2O2
solvent | acetonitrile | 80 ml | C(C)#N | C2H3N
product | 4-(1-benzyloxycarbonylpiperidine-2-carbonyl)piperazine-1-carboxylic acid tert-butyl ester | 17.93 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C(=O)C1N(CCCC1)C(=O)OCC1=CC=CC=C1 | C23H33N3O5
